US08802704B2
Step 2: tert-butyl N-(tert-butoxycarbonyl)-N-(4-cyanobenzyl)glycinate
A mixture of tert-butyl N-(4-cyanobenzyl)glycinate (1.1 g, 4.5 mmol), di-tert-butyl dicarbonate (1.1 g, 4.9 mmol) and N-ethyldiisopropylamine (1.1 mL, 6.7 mmol) was prepared in DCM (22 mL) and stirred at RT for 3.5 hours. The reaction mixture was diluted with DCM and washed with a saturated aqueous solution of NaHCO3 (2×) and brine. The organic layer was dried (MgSO4) and concentrated to afford the title compound as a colorless oil (1.2 g, 77%). 1H NMR (DMSO-d6, 300 MHz) δ 7.84-7.78 (m, 2H), 7.48 (d, J=8.0 Hz, 2H), 4.50-4.45 (m, 2H), 3.93-3.83 (m, 2H), 1.41-1.29 (m, 18H). LC/MS (Method B): 347.1 (M+H)+. HPLC (Method A) Rt 5.10 min (Purity: 100.0%).

reactant | tert-butyl N-(4-cyanobenzyl)glycinate | 4.5 mmol, 1.1 g | C(#N)C1=CC=C(CNCC(=O)OC(C)(C)C)C=C1 | C14H18N2O2
reactant | di-tert-butyl dicarbonate | 4.9 mmol, 1.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-ethyldiisopropylamine | 6.7 mmol, 1.1 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DCM | 22 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-(tert-butoxycarbonyl)-N-(4-cyanobenzyl)glycinate | 1.2 g, 77% | C(C)(C)(C)OC(=O)N(CC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C#N | C19H26N2O4
